US07550608B2
Optically Active (+)-Cis-N-T-Butoxycarbonyl-3-Trimethylsilyloxy-4-Phenyl-Azetidin-2-One
To a solution of optically active (+)-cis-3-trimethylsilyloxy-4 -phenyl-azetidin-2-one (0.95 g, 4 mmol) in THF (10 mL) was added triethylamine (1.1 g, 5 mmol), DMAP (15 mg, 0.12 mmol) and di-tert-butyldicarbonate (Boc2O, 5.04 g, 5 mmol). The mixture was stirred at ambient temperature until the evolution of gas ceased and complete conversion to a less polar product was observed via TLC (2:1 ethyl acetate:heptane). The reaction mixture was diluted with heptane (20 mL) and filtered through a pad of silica gel (10 g) and concentrated in a 30° C. rotary evaporator until crystal formation occurred. The crystals were collected via vacuum filtration through a Buchner funnel, washed with cold heptane, and dried under vacuum (<1 mmHg) at ambient temperature to a constant weight of 0.87 g (65%). mp: 85 to 88° C., [α]22578 =+106.9 (MeOH, 1.0), 1H NMR (400 MHz, CDCl3) δ (ppm): −0.07 (s, 9H), 1.38 (s, 9H), 5.01 (d, J=5.6 Hz, 1H), 5.06 (d, J=5.6 Hz, 1H), 7.26 to 7.38 (m, 5H).

reactant | (+)-cis-3-trimethylsilyloxy-4 -phenyl-azetidin-2-one | 4 mmol, 0.95 g | C[Si](O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O)(C)C | C12H17NO2Si
reactant | triethylamine | 5 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 5 mmol, 5.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.12 mmol, 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | heptane | 20 mL | CCCCCCC | C7H16
product | (+)-Cis-N-T-Butoxycarbonyl-3-Trimethylsilyloxy-4-Phenyl-Azetidin-2-One | C(C)(C)(C)OC(=O)N1C([C@H]([C@H]1C1=CC=CC=C1)O[Si](C)(C)C)=O | C17H25NO4Si
